US07696223B2
a) 1-(4-Fluoro-phenyl)-4-hydroxy-7-methyl-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 7-chloro-1-(4-fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (60 mg, 0.146 mmol), tetramethyltin (104 mg, 0.584 mmol) and Pd(PPh3)2Cl2 in DMF (1 mL) was stirred at 135° C. for 2 h; then the reaction was cooled, diluted with EtOAc, washed with water and saturated sodium chloride aqueous solution respectively, the organic phase was dried over anhydrous sodium sulfate, filtered, concentrated, the residue was purified on column to give the desired title product (30 mg); ESI MS (m/z): 391 (M+H+).

reactant | 7-chloro-1-(4-fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 0.146 mmol, 60 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)Cl)N(C=C2C2=CC=CC=C2)C2=CC=C(C=C2)F)O | C22H16ClFN2O3
reactant | tetramethyltin | 0.584 mmol, 104 mg | C[Sn](C)(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(4-Fluoro-phenyl)-4-hydroxy-7-methyl-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 30 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)C)N(C=C2C2=CC=CC=C2)C2=CC=C(C=C2)F)O | C23H19FN2O3
